US08349851B2
To solution of 2-amino-4-chlorobenzoic acid (4.4 g, 25.8 mmol) in degassed DMF (75 mL) were added successively HOBt (4.19 g, 31 mmol), DIEA (5.4 mL, 31 mmol), EDCI (5.37 g, 28 mmol), and 2N NH3/MeOH (18 mL, 36 mmol), and the solution was stirred at rt for 4 d. The mixture was concentrated under reduced pressure and the residue was partitioned between H2O (200 mL) and DCM (200 mL). The separated aqueous phase was extracted with DCM (2×200 mL) and the combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with 10-50% EtOAc/hexanes to afford 2-amino-4-chlorobenzamide as a solid (2.91 g, 66%).1H NMR (300 MHz, DMSO-d6) δ 6.50 (dd, J=8.48, 2.26 Hz, 1 H), 6.75 (d, J=2.26 Hz, 1 H), 6.84 (br s, 2 H), 7.18 (br s, 1 H), 7.48-7.63 (m, 1 H), 7.80 (br s, 1 H).

reactant | 2-amino-4-chlorobenzoic acid | 25.8 mmol, 4.4 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | HOBt | 31 mmol, 4.19 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 31 mmol, 5.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 28 mmol, 5.37 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | NH3 MeOH | 36 mmol, 2N, 18 mL | N.CO
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 2-amino-4-chlorobenzamide | 2.91 g, 66% | NC1=C(C(=O)N)C=CC(=C1)Cl | C7H7ClN2O
